US07754188B2
2-Methyl-2-(5-trifluoromethyl-2-pyridyloxy)propionic Acid
To a solution of potassium bis(trimethylsilyl)amide in tetrahydrofuran (0.91 M, 275 mL) at −70° C. under nitrogen and was added ethyl-2-hydroxyisobutyrate (36 mL, 34.7 g, 0.263 mol) over 12 min. After stirring for additional 10 min, 2-chloro-5-trifluormethylpyridine was added in one portion. The cooling bath was removed and the reaction was allowed to warm to room temperature overnight. Sodium hydroxide (105 mL, 5N) was added, and the reaction was refluxed overnight. The reaction mixture was partially concentrated on a rotary evaporator, diluted with water (150 mL), and extracted with hexane (2×150 L). The aqueous layer was separated and acidified with 2N HCl (350 mL, 0.7 mol), and the resulting suspension was cooled to 0° C. After aging for 20 min, the precipitate was collected by filtration, which was washed with water (4×150 mL) and air-dried to afford 38.0 g of a tan solid. (85.5%). Treatment with Darco KB and recrystallization in 3:1 heptane/isopropyl acetate provided the title compound as a white crystalline material. 1H NMR (500 MHz, CD3OD): δ 8.38 (br s, 1H), 7.93 (dd, 1H), 7.13 (d, 1H), 1.70 (s, 6H). LC-MS: m/e 250 (M+H)+ (2.6 min).

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethyl-2-hydroxyisobutyrate | 0.263 mol, 36 mL, 34.7 g | C(C)OC(C(C)(C)O)=O | C6H12O3
reactant | 2-chloro-5-trifluormethylpyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | HCl | 0.7 mol, 2N, 350 mL | Cl | ClH
solvent | tetrahydrofuran | 0.91 M, 275 mL | O1CCCC1 | C4H8O
product | 2-Methyl-2-(5-trifluoromethyl-2-pyridyloxy)propionic Acid | 38.0 g | CC(C(=O)O)(C)OC1=NC=C(C=C1)C(F)(F)F | C10H10F3NO3
